US06235750B1
D. 6-[3-(2-Dimethylamino-cyclopentylmethyl)-phenyl]-pyridin-2-ylamine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 140 mg (0.375 mmol) 2-(2,5-dimethylpyrrolyl)-6-[3-(2-dimethylamino-cyclopentylmethyl)-phenyl]-pyridine, 9 mL ethanol, 1 mL water, and 261 mg (3.75 mmol) hydroxylamine hydrochloride. The reaction was refluxed 24 hours treated with additional hydroxylamine hydrochloride, and refluxed a further 12 hours. It was then cooled, poured into dilute aqueous hydrochloric acid, and washed with ethyl acetate. The aqueous layer was adjusted to pH 10 with 6N sodium hydroxide solution, and extracted with two portions of ethyl acetate. The combined organic layer was washed with brine, dried over sodium sulfate, and evaporated. The resulting oil (109 mg, 98.5%) was converted to the hydrochloride salt using 1N HCl in ether to afford 115 mg (83%) of a white solid, mp 60-80° C.

reactant | 2-(2,5-dimethylpyrrolyl)-6-[3-(2-dimethylamino-cyclopentylmethyl)-phenyl]-pyridine | 0.375 mmol, 140 mg | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC(=CC=C1)CC1C(CCC1)N(C)C)C | C25H31N3
reactant | ethanol | 9 mL | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 3.75 mmol, 261 mg | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 6-[3-(2-Dimethylamino-cyclopentylmethyl)-phenyl]-pyridin-2-ylamine | 115 mg, 83% | CN(C1C(CCC1)CC=1C=C(C=CC1)C1=CC=CC(=N1)N)C | C19H25N3
